US08754089B2
A mixture of 2-(chloromethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (3.5648 g, 17.09 mmol), N-bromosuccinimide (3.35 g, 18.79 mmol), and acetic acid (48.2 mL, 843 mmol) was stirred at rt. After 4.5 h, the mixture was poured into water (200 mL) and the resulting precipitate was collected by filtration, washed with water (200 mL), and dried to give an orange solid. The orange solid was dissolved in DCM (100 mL), dried over Na2SO4, filtered, and concd under reduced pressure to give 3-bromo-2-(chloromethyl)-6-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one as an orange solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.76 (1 H, dd, J=9.0, 7.0 Hz), 7.47-7.52 (1 H, m), 7.04-7.09 (1 H, m), 4.71 (2 H, s), 2.95 (3 H, s); Mass Spectrum (ESI) m/e=288.9 (M+1).

reactant | 2-(chloromethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 17.09 mmol, 3.5648 g | ClCC=1N=C2N(C(C1)=O)C(=CC=C2)C | C10H9ClN2O
reactant | N-bromosuccinimide | 18.79 mmol, 3.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetic acid | 843 mmol, 48.2 mL | C(C)(=O)O | C2H4O2
reactant | water | 200 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-2-(chloromethyl)-6-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C(=CC=C2)C)CCl | C10H8BrClN2O
